US08754089B2
A mixture of (6-methyl-4-oxo-3-o-tolyl-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl methanesulfonate (100 mg, 0.28 mmol), 9H-purine-6-thiol (51 mg, 1.2 eq) and K2CO3 (46 mg, 1.2 eq) in 2 mL DMF was stirred at rt overnight. Water was added and the resulting solid was washed with water and dried in the open air. 6-Methyl-3-(2-methylphenyl)-2-((9H-purin-6-ylsulfanyl)methyl)-4H-pyrido[1,2-a]-pyrimidin-4-one was obtained as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 13.49 (1 H, s), 8.47 (1 H, s), 8.40 (1 H, s), 7.68 (1 H, t, J=8.0 Hz), 7.43 (1 H, d, J=8.0 Hz), 7.23-7.19 (4 H, m), 6.95 (1 H, d, J=8.0 Hz), 4.45 (1 H, d, J=12.0 Hz), 4.29 (1 H, d, J=12.0 Hz), 2.90 (3 H, s), 2.10 (3 H, s); Mass Spectrum (ESI) m/e=415 (M+1).

reactant | (6-methyl-4-oxo-3-o-tolyl-4H-pyrido[1,2-a]pyrimidin-2-yl)methyl methanesulfonate | 0.28 mmol, 100 mg | CS(=O)(=O)OCC=1N=C2N(C(C1C1=C(C=CC=C1)C)=O)C(=CC=C2)C | C18H18N2O4S
reactant | 9H-purine-6-thiol | 51 mg, 1.2 eq | N1=CN=C2NC=NC2=C1S | C5H4N4S
reactant | K2CO3 | 46 mg, 1.2 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | Water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-Methyl-3-(2-methylphenyl)-2-((9H-purin-6-ylsulfanyl)methyl)-4H-pyrido[1,2-a]-pyrimidin-4-one | CC1=CC=CC=2N1C(C(=C(N2)CSC2=C1N=CNC1=NC=N2)C2=C(C=CC=C2)C)=O | C22H18N6OS
